US04659516
The process described in Example 32 was repeated using 7α-(7-mesyloxyheptyl)oestra-1,3,5(10)-triene-3,17β-diol (obtained as described in Example 41 using initially 6-(dimethyl-t-butylsilyloxy)hexyltriphenylphosphonium bromide) and 2-n-pentylthio-ethanol (obtained from pentanethiol and 2-bromoethanol) as starting materials. There was thus obtained as an oil 7α-[7-(2-n-pentylthioethoxy)heptyl]oestra-1,3,5(10)-triene-3,17β-diol, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | 7α-(7-mesyloxyheptyl)oestra-1,3,5(10)-triene-3,17β-diol | S(=O)(=O)(C)OCCCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)O | C26H40O5S
reactant | 6-(dimethyl-t-butylsilyloxy)hexyltriphenylphosphonium bromide | [Br-].C[Si](OCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(C)(C)C)C
reactant | 2-n-pentylthio-ethanol | C(CCCC)SCCO | C7H16OS
product | 7α-[7-(2-n-pentylthioethoxy)heptyl]oestra-1,3,5(10)-triene-3,17β-diol | C(CCCC)SCCOCCCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)O | C32H52O3S
